US04956508
The synthesis is then continued in accordance with the general reaction scheme described above, using the chemical reaction illustrated in FIG. 1. A suspension of lithium powder is prepared in an inert solvent, for example in tetrahydrofurane (THF). The proportion may be the following: 1.5 g, i.e. 220 millimoles, of lithium per 170 ml of THF. Argon can be used as the neutral atmosphere in the refluxing apparatus. 3 millimoles of solid 4,4',5,5'-tetramethyl 1,1'-dinaphthalene are then added. The refluxing is continued at 65° C. during 5 hours, which corresponds to the disappearing of the original 1,1'-dinaphthalene. The reaction mixture turns blue after the first three hours of heating. After cooling and injection of oxygen, the colour of the mixture turns yellow. The excess lithium is removed and the solvent is evaporated. A chromatography is performed on silicagel, using dichloromethane as the eluant. The 3,4,9,10-tetramethyl perylene is obtained by recrystallization with xylene. The yield in this preparation is 40%.

reactant | lithium | [Li] | Li
reactant | oxygen | O=O | O2
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | THF | 170 ml | O1CCCC1 | C4H8O
product | 3,4,9,10-tetramethyl perylene | CC=1C=CC=2C=3C=CC(=C4C(=CC=C(C5=CC=C(C1C52)C)C43)C)C | C24H20
